US09388189B2
(S)-4-Amino-N-(3-methoxyphenyl)-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carboxamide
(S)-4-((4-Methoxybenzyl)amino)-N-(3-methoxyphenyl)-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carboxamide (120 mg, 0.19 mmol) was dissolved in 5 mL trifluoroacetic acid. The reaction mixture was stirred at room temperature overnight. The trifluoroacetic acid was evaporated and the crude was partitioned between ethyl acetate and water. The organic phase was washed with brine, dried over sodium sulphate, filtered and concentrated. The residue was purified by reverse phase using SP1® Purification System to obtain 27 mg (28% yield) of the title compound.

reactant | (S)-4-((4-Methoxybenzyl)amino)-N-(3-methoxyphenyl)-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carboxamide | 0.19 mmol, 120 mg | COC1=CC=C(CNC2=NC=NC(=C2C(=O)NC2=CC(=CC=C2)OC)N[C@@H](C)C2=NN3C(C(N2C2=CC=CC=C2)=O)=C(C=C3)C)C=C1 | C35H34N8O4
solvent | trifluoroacetic acid | 5 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (S)-4-Amino-N-(3-methoxyphenyl)-6-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carboxamide | 27 mg, 28% yield | NC1=NC=NC(=C1C(=O)NC1=CC(=CC=C1)OC)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C | C27H26N8O3
